US04545995
1-Chloro-4-(2-propynyl)benzene
Place 59 g (2.43 mole) of magnesium turnings into a four-neck flask equipped with mechanical stirrer under N2 atmosphere. Add 500 ml of anhydrous ether and then add a solution of 465 g (2.43 mole) of 1-bromo-4-chlorobenzene in 1000 ml of anhydrous ether dropwise while stirring. Stir one hour after the completion of addition. Transfer and add this Grignard reagent to a solution of 170 g (2.43 mole) of 1-methoxy-1,2-propanediene and 69 g of copper (I) bromide in 300 ml of anhydrous ether with cooling. Stir for another ten minutes after the completion of addition. Add saturated aqueous solution of ammonium hydroxide and decant ether solution. Wash the solid residue with ether (3×50 ml). Wash the combined ether solutions with 1N HCl, saturated aqueous sodium bicarbonate, and with H2O. Dry over magnesium sulfate, evaporate, and distill in vacuo to yield the title compound, b.p. 99°-105° C. (15 mmHg).

reactant | magnesium | 2.43 mole, 59 g | [Mg] | Mg
reactant | 1-bromo-4-chlorobenzene | 2.43 mole, 465 g | BrC1=CC=C(C=C1)Cl | C6H4BrCl
reactant | 1-methoxy-1,2-propanediene | 2.43 mole, 170 g | COC=C=C | C4H6O
solvent | ether | 1000 ml | CCOCC | C4H10O
solvent | ether | 300 ml | CCOCC | C4H10O
catalyst | copper (I) bromide | 69 g | [Cu]Br
solvent | ether | 500 ml | CCOCC | C4H10O
product | 1-Chloro-4-(2-propynyl)benzene | ClC1=CC=C(C=C1)CC#C | C9H7Cl
